US07829560B2
A mixture of 3-fluoro-5-hexyloxybenzonitrile (1.0 g, 4.56 mmol), ethanol (12 ml), water (12 ml), and aq. NaOH (50%, 12 ml) is heated at 75° C. for 18 hours. The mixture is then cooled in an ice bath and acidified with concentrated HCl to pH 1. The mixture is extracted with ethyl acetate and the organic layer washed with brine, dried over Na2SO4, and concentrated to afford 3-fluoro-5-cyclohexyloxybenzoic acid as a yellow solid. MS: 239.11 (M+1).

reactant | 3-fluoro-5-hexyloxybenzonitrile | 4.56 mmol, 1.0 g | FC=1C=C(C#N)C=C(C1)OCCCCCC | C13H16FNO
reactant | ethanol | 12 ml | C(C)O | C2H6O
reactant | NaOH | 12 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 12 ml | O | H2O
product | 3-fluoro-5-cyclohexyloxybenzoic acid | FC=1C=C(C(=O)O)C=C(C1)OC1CCCCC1 | C13H15FO3
